* stage delay at code 255
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.option temp=125
.include /work/analog/out/blocks/blocks.spice
Vdd VPWR 0 1.32
Vc0 code[0] 0 1.32
Vc1 code[1] 0 1.32
Vc2 code[2] 0 1.32
Vc3 code[3] 0 1.32
Vc4 code[4] 0 1.32
Vc5 code[5] 0 1.32
Vc6 code[6] 0 1.32
Vc7 code[7] 0 1.32
Xdac code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] vbp VPWR 0 csro_dac
XMPD vbp vbp VPWR VPWR sg13_lv_pmos w=48u l=0.5u ng=24
XMPM vbn vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMND vbn vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1
Vin a 0 pulse(0 1.32 1.506e-09 50p 50p 3.012e-09 6.024e-09)
Xdrv a b vbp vbn VPWR 0 csro_stage
Xdut b y vbp vbn VPWR 0 csro_stage
Xload y z vbp vbn VPWR 0 csro_stage
Xload2 z zz vbp vbn VPWR 0 csro_stage
.control
tran 3.012e-12 1.807e-08
let vh = 1.32/2
meas tran tin_f when v(b)=vh fall=2
meas tran tout_r when v(y)=vh rise=2
meas tran tin_r when v(b)=vh rise=2
meas tran tout_f when v(y)=vh fall=2
let tplh = tout_r - tin_f
let tphl = tout_f - tin_r
echo "tplh=$&tplh tphl=$&tphl"
meas tran t40r when v(y)=0.528 rise=2
meas tran t60r when v(y)=0.792 rise=2
meas tran t60f when v(y)=0.792 fall=2
meas tran t40f when v(y)=0.528 fall=2
let sr_r = 0.264/(t60r - t40r)
let sr_f = -0.264/(t40f - t60f)
echo "sr_r=$&sr_r sr_f=$&sr_f"
meas tran tr when v(y)=0.264 rise=2
meas tran tr8 when v(y)=1.056 rise=2
meas tran tf when v(y)=1.056 fall=2
meas tran tf2 when v(y)=0.264 fall=2
let trise = tr8 - tr
let tfall = tf2 - tf
echo "trise=$&trise tfall=$&tfall"
.endc
.end
